US05516788
9b,10-Dihydro-9b-methyl-8-isopropylindeno[1,2-b]indole
To a solution of 4-isopropylphenylhydrazine hydrochloride, (6.50 g, 0.035 mmol) in absolute ethanol (140 cm3) was added dropwise 2-methyl-1-indanone, (4.6 g, 0.032 mmol) followed by conc. hydrochloric acid (2.5 cm3). The mixture was refluxed for 2 hours and the ethanol evaporated. The residue was portioned between diethyl ether (100 cm3) and water (100 cm3) and the layers separated. The aqueous phase was extracted with diethyl ether (2×30 cm3) and the organic extracts were washed sequentially with saturated sodium bicarbonate solution and brine, and then dried (Na2SO4). Removal of the solvent gave the title compound which was purified by flash chromatography on silica gel eluting with 10% ethyl acetate/60°-80° petrol, to yield a yellow gum; (1.62 g, 25%); 1H NMR (CDCl3) δ: 7.88 (1H, m), 7.55 (1H, d, J=8.1 Hz) 7.41 (3H, m) 7.30 (1H, d, J=1.8 Hz) 7.23 (1H, dd, J=1.8 Hz and 7.1 Hz) 3.10 (1H, d, J=14.7 Hz) 2.98 (1H, septet, J=7.0 Hz) 2.85 (1H, d, J=14.7 Hz) 1.39 (3H, s) 1.30 (6H, d, J=7.0 Hz).

reactant | 4-isopropylphenylhydrazine hydrochloride | 0.035 mmol, 6.50 g | Cl.C(C)(C)C1=CC=C(C=C1)NN
reactant | 2-methyl-1-indanone | 0.032 mmol, 4.6 g | CC1C(C2=CC=CC=C2C1)=O | C10H10O
reactant | hydrochloric acid | 2.5 cm3 | Cl | ClH
solvent | ethanol | 140 cm3 | C(C)O | C2H6O
product | 9b,10-Dihydro-9b-methyl-8-isopropylindeno[1,2-b]indole | CC12C(=NC=3C=CC(=CC13)C(C)C)C1=CC=CC=C1C2 | C19H19N
